US06680317B2
b) 6-Amino-2-((R)-3-amino-pyrrolidine-1-sulfonyl)-3-chloro-phenol
Following the general procedure for the hydrolysis of the benzooxazole to the desired aniline outlined in example 51, [(R)-1-(2-tert-butyl-6-chloro-benzooxazole-7-sulfonyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester (2.0 g, 4.31 mmol), water (3.6 mL), and H2SO4 (3.6 mL) in 1,4-dioxane (60 mL) were reacted to afford the title compound (1.2 g, 94%). LCMS m/z 292(M−H)+.

reactant | benzooxazole | O1C=NC2=C1C=CC=C2 | C7H5NO
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | [(R)-1-(2-tert-butyl-6-chloro-benzooxazole-7-sulfonyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | 4.31 mmol, 2.0 g | C(C)(C)(C)OC(N[C@H]1CN(CC1)S(=O)(=O)C1=C(C=CC=2N=C(OC21)C(C)(C)C)Cl)=O | C20H28ClN3O5S
reactant | H2SO4 | 3.6 mL | OS(=O)(=O)O | H2O4S
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | water | 3.6 mL | O | H2O
product | 6-Amino-2-((R)-3-amino-pyrrolidine-1-sulfonyl)-3-chloro-phenol | 1.2 g, 94% | NC1=CC=C(C(=C1O)S(=O)(=O)N1C[C@@H](CC1)N)Cl | C10H14ClN3O3S
